US05948907
A suspension of 1-(methanesulfonylpropyl-indole-3-acetamide (1.0 g, 3.20 mmol) in THF (15 mL) was treated with a 40% aqueous solution of dimethylamine (13.5 mL, 0.108 mole) and the resultant reaction solution was capped and stirred at room temperature for 18 hours. The reaction was worked up extractively using EtOAc (50 mL), water (2× 50 mL) and brine (25 ml). The combined aqueous layers were back-extracted three times with EtOAc (3× 25 mL) and the combined organic layer dried (MgSO4) and the solvent removed in vacuo to give 0.77 g (92%) of 1-(Dimethylaminopropyl)-indole-3-acetamide. NMR. MS (FD) m/z=259 (M+, 100%).

reactant | methanesulfonylpropyl-indole-3-acetamide | 3.20 mmol, 1.0 g | CS(=O)(=O)CCCC=1NC2=CC=CC=C2C1CC(=O)N | C14H18N2O3S
reactant | dimethylamine | 0.108 mole, 13.5 mL | CNC | C2H7N
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | water | 50 mL | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | brine | 25 ml | [Cl-].[Na+].O
product | 1-(Dimethylaminopropyl)-indole-3-acetamide | 0.77 g, 92% | CN(C)CCCN1C=C(C2=CC=CC=C12)CC(=O)N | C15H21N3O
